US07238720B2
b) 3-(Piperidin-1-yl)sulfonyl-1-dimethylcarbamoyl-1H-1,2,4-triazole
To a mixture of 3-chlorosulfonyl-1-dimethylcarbamoyl-1H-1,2,4-triazole (240 mg) and ethyl acetate (2 ml) was added pyridine (0.2 ml) on a water bath at room temperature. At this temperature the mixture was stirred for 1 hour. The reaction solution was washed with water, followed by saturated aqueous sodium chloride solution, and concentrated. The residue was subjected to a silica-gel column chromatography with 20 to 30% (20% 2-propanol/ethyl acetate)/hexane to yield the title compound (29 mg).

reactant | 3-chlorosulfonyl-1-dimethylcarbamoyl-1H-1,2,4-triazole | 240 mg | ClS(=O)(=O)C1=NN(C=N1)C(N(C)C)=O | C5H7ClN4O3S
reactant | ethyl acetate | 2 ml | C(C)(=O)OCC | C4H8O2
reactant | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
product | 3-(Piperidin-1-yl)sulfonyl-1-dimethylcarbamoyl-1H-1,2,4-triazole | 29 mg | N1(CCCCC1)S(=O)(=O)C1=NN(C=N1)C(N(C)C)=O | C10H17N5O3S
